US07135472B2
Step B: (S)-1-[3-(5-Dimethylaminomethyl-isoxazol-3-yl)-phenyl]-ethylamine
To a solution of (S)-{1-[3-(hydroxyimino-methyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (260 mg, 1 mmol) in dichloromethane (5 mL) was added dimethylpropargylamine (323 μL, 3 mmol) followed by household bleach (5 mL). The reaction mixture was stirred vigorously at room temperature for 2 h, the two layers were separated, and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo, the crude product was dissolved in CH2Cl2 (8 mL) and trifluoroacetic acid (2 mL), and the reaction mixture was stirred at room temperature for 1 h and concentrated in vacuo. The residue was purified by solid phase extraction (SCX cartridge, silica gel benzene sulfonic acid linked) to give the title product (200 mg, 82% yield) as yellow oil.

reactant | (S)-{1-[3-(hydroxyimino-methyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1 mmol, 260 mg | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)C=NO)=O | C14H20N2O3
reactant | dimethylpropargylamine | 3 mmol, 323 μL | CN(CC#C)C | C5H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-1-[3-(5-Dimethylaminomethyl-isoxazol-3-yl)-phenyl]-ethylamine | 200 mg, 82% yield | CN(C)CC1=CC(=NO1)C=1C=C(C=CC1)[C@H](C)N | C14H19N3O
